US07268230B2
Using an analogous procedure to that described for the preparation of Example 5, 4-chloro-6-methoxy-7-[2-(N-methyl-N-prop-2-yn-1-ylamino)ethoxy]quinazoline (0.25 g, 0.817 mmol) was reacted with 5-hydroxy-7-azaindole (0.12 g, 0.899 mmol), (prepared as described for the starting material in Example 2), to give 4-(7-azaindol-5-yloxy)-6-methoxy-7-[2-(N-methyl-N-prop-2-yn-1-ylamino)ethoxy]quinazoline (0.156 g, 47%).

reactant | 4-chloro-6-methoxy-7-[2-(N-methyl-N-prop-2-yn-1-ylamino)ethoxy]quinazoline | 0.817 mmol, 0.25 g | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCN(CC#C)C | C15H16ClN3O2
reactant | 5-hydroxy-7-azaindole | 0.899 mmol, 0.12 g | OC=1C=C2C=CNC2=NC1 | C7H6N2O
product | 4-(7-azaindol-5-yloxy)-6-methoxy-7-[2-(N-methyl-N-prop-2-yn-1-ylamino)ethoxy]quinazoline | 0.156 g, 47% | N1C=CC2=CC(=CN=C12)OC1=NC=NC2=CC(=C(C=C12)OC)OCCN(CC#C)C | C22H21N5O3
